US08648081B2
Stir a mixture of 3-(5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophene-1-carbonyl chloride (48 mg, 0.1 mmol) and 4-aminobenzamide (27 mg, 0.2 mmo) in pyridine (3 mL) at ambient temperature overnight. After removal solvent under vacuum, purify the residue by preparative HPLC to afford N-(4-carbamoylphenyl)-3-(5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophene-1-carboxamide as a white solid (36 mg, 62.0%). MS (m/z): 582.1 (M+1). 1H NMR (CDCl3, 400 MHz) δ 7.84 (d, J=8.4 Hz, 2H), 7.65-7.63 (m, 3H), 7.49 (s, 2H), 7.44 (s, 1H), 6.03 (s, 1H), 5.61 (s, 1H), 4.09-4.05 (d, J=16 Hz, 1H), 3.72-3.68 (d, J=16 Hz, 1H), 3.07 (s, 2H), 2.94 (s, 2H), 1.76 (s, 4H).

reactant | 3-(5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophene-1-carbonyl chloride | 0.1 mmol, 48 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=C2C(=C(S1)C(=O)Cl)CCCC2)C(F)(F)F | C19H13Cl3F3NO2S
reactant | 4-aminobenzamide | 27 mg | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-carbamoylphenyl)-3-(5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophene-1-carboxamide | 36 mg, 62.0% | C(N)(=O)C1=CC=C(C=C1)NC(=O)C=1SC(=C2C1CCCC2)C2=NOC(C2)(C(F)(F)F)C2=CC(=CC(=C2)Cl)Cl | C26H20Cl2F3N3O3S
